US05312828
A suspension of 2-butylimidazol-5-aldehyde (16.92 g, 0.111 mmol, prepared by manganese dioxide oxidation of the alcohol, prepared in Example 1), chloromethyl pivalate (21.77 g, 0.145 mmol), and potassium carbonate (20.07 g, 0.145 mmol) in 200 ml of dimethylformamide was stirred at ambient temperature under argon for four days The solids were removed by filtration and washed with ether. The combined filtrates were partitioned between ether and water. The ether phase was washed successively with water and brine, dried over magnesium sulfate and concentrated under vacuum to give 23.6 g of 2-n-butyl-1-pivalyloxy-methylimidazole-5-aldehyde

reactant | 2-butylimidazol-5-aldehyde | C(CCC)C=1NC(=CN1)C=O | C8H12N2O
reactant | chloromethyl pivalate | 0.145 mmol, 21.77 g | C(C(C)(C)C)(=O)OCCl | C6H11ClO2
reactant | potassium carbonate | 0.145 mmol, 20.07 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
catalyst | manganese dioxide | [O-2].[O-2].[Mn+4]
product | 2-n-butyl-1-pivalyloxy-methylimidazole-5-aldehyde | 23.6 g | C(CCC)C=1N(C(=C(N1)C)C=O)OC(C(C)(C)C)=O | C14H22N2O3
